US04466970
1-[3-[4-(Piperidinomethyl)pyrid-2-yloxy]prop-1-ylamino]-2-aminocyclobut-1-ene-3,4-dione
1-Amino-2-methoxy-cyclobut-1-ene-3,4-dione (0.5 g) and 3-[4-(piperidinomethyl)pyrid-2-yloxy]prop-1-ylamine (1.05 g) were refluxed in ethanol (25 ml) for 4 hours. A solid formed during the reaction. The reaction mixture was cooled and the solid collected by filtration. Recrystallisation of the solid from ethanol/methanol afforded the title product (0.88 g), m.p. 226°-8° C.

reactant | 1-Amino-2-methoxy-cyclobut-1-ene-3,4-dione | 0.5 g | NC1=C(C(C1=O)=O)OC | C5H5NO3
reactant | 3-[4-(piperidinomethyl)pyrid-2-yloxy]prop-1-ylamine | 1.05 g | N1(CCCCC1)CC1=CC(=NC=C1)OCCCN | C14H23N3O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-[3-[4-(Piperidinomethyl)pyrid-2-yloxy]prop-1-ylamino]-2-aminocyclobut-1-ene-3,4-dione | 0.88 g | N1(CCCCC1)CC1=CC(=NC=C1)OCCCNC1=C(C(C1=O)=O)N | C18H24N4O3
